US07294635B2
To a solution of 4-fluoro-3-methoxybenzaldehyde (32 g, 0.2 mol) in pyridine (100 mL) was added malonic acid (43 g, 0.4 mol) and piperidine (3 mL, 0.03 mol). The reaction solution was stirred at 85° C. for 13 hr. Upon cooling, the resulting suspension was added to cold water (500 mL) and acidified with conc. HCl (80 mL). The white solid was filtered off, washed with water and dried to yield 36 g (92%) of 3-(4-fluoro-3-methoxyphenyl)-acrylic acid. RP-HPLC: 3.71 min. 1H-NMR (DMSO-d6) δ (ppm) 3.85 (s, 3), 6.53 (d, 1, J=16), 7.20 (m, 2), 7.50 (m, 1), 7.52 (d, 1, J=16).

reactant | 4-fluoro-3-methoxybenzaldehyde | 0.2 mol, 32 g | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
reactant | malonic acid | 0.4 mol, 43 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.03 mol, 3 mL | N1CCCCC1 | C5H11N
reactant | HCl | 80 mL | Cl | ClH
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 500 mL | O | H2O
product | 3-(4-fluoro-3-methoxyphenyl)-acrylic acid | 36 g, 92% | FC1=C(C=C(C=C1)C=CC(=O)O)OC | C10H9FO3
